US06348474B1
5-(Methoxycarbonyl)-2-methylbenzo[b]thiophene
5-Carboxy-2-methylbenzo[b]thiophene (2.1 g, 10.9 mmol) was dispersed in methanol (50 ml), and concentrated sulfuric acid was added. The mixture was refluxed with heating for 6 hr. After cooling, a saturated aqueous solution of sodium hydrogencarbonate was added, and methanol was distilled away under reduced pressure. The residue was extracted with methyl t-butyl ether. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The desiccant was filtered off, and the filtrate was concentrated under reduced pressure to give the objective compound (2.0 g, 89%) as colorless crystals.

reactant | 5-Carboxy-2-methylbenzo[b]thiophene | 10.9 mmol, 2.1 g | C(=O)(O)C1=CC2=C(SC(=C2)C)C=C1 | C10H8O2S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-(Methoxycarbonyl)-2-methylbenzo[b]thiophene | 2.0 g, 89% | COC(=O)C1=CC2=C(SC(=C2)C)C=C1 | C11H10O2S
